US07897597B2
The general methods described in Parts A-G of Example 1 were used to prepare 7-benzyloxy-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinoline. Propylamine was used in lieu of isobutylamine in Part E, and methoxypropionyl chloride was used in lieu of trimethyl orthobutyrate in Part G. 7-Benzyloxy-2-(2-methoxyethyl)-1H-propyl-1H-imidazo[4,5-c]quinoline was treated according to the general methods described in Parts A-D of Examples 35-40. In Part B, the fluorobenzene used was 4-fluorophenyl methyl sulfone. Following chromatographic purification, the product was recrystallized from acetonitrile to provide 0.890 g of 7-(4-methanesulfonylphenoxy)-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine as dark tan needles, mp 210-212° C.

reactant | 7-benzyloxy-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinoline | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCC)CCOC | C23H25N3O2
reactant | Propylamine | C(CC)N | C3H9N
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | methoxypropionyl chloride | COCCC(=O)Cl | C4H7ClO2
reactant | trimethyl orthobutyrate | C(CCC)(OC)(OC)OC | C7H16O3
reactant | fluorobenzene | FC1=CC=CC=C1 | C6H5F
reactant | 4-fluorophenyl methyl sulfone | CS(=O)(=O)C1=CC=C(C=C1)F | C7H7FO2S
product | 7-(4-methanesulfonylphenoxy)-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.890 g | CS(=O)(=O)C1=CC=C(OC=2C=CC=3C4=C(C(=NC3C2)N)N=C(N4CCC)CCOC)C=C1 | C23H26N4O4S
